US06498165B1
2-[(S)-1-Phenylethylamino]-4-[4-nitro-5-methyl-benzimidazol-1-yl]pyrimidine
To a stirred solution of 4-nitro-5-methyl-benzimidazole (50 mg, 0.28 mmol, 1.1 eq) in DMF was added NaH (60% dispersion in oil, 11.4 mg, 0.28 mmol, 1.1 eq). After gas evolution ceased, 2-[(S)-1-phenylethylamino]-4-chloro-pyrimidine (60 mg, 0.26 mmol, 1 eq) was added and the mixture was warmed to 80° C. and stirred overnight. The reaction was cooled and the DMF was removed under reduced pressure. The products were purified by preparative thin layer chromatography to afford 35.8 mg of the title compound. Mass spectrum (ESI) 375 (M+).

reactant | 4-nitro-5-methyl-benzimidazole | 0.28 mmol, 50 mg, 1.1 eq | [N+](=O)([O-])C1=C(C=CC=2N=CNC21)C | C8H7N3O2
reactant | NaH | 0.28 mmol, 11.4 mg, 1.1 eq | [H-].[Na+]
reactant | 2-[(S)-1-phenylethylamino]-4-chloro-pyrimidine | 0.26 mmol, 60 mg, 1 eq | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)Cl | C12H12ClN3
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(S)-1-Phenylethylamino]-4-[4-nitro-5-methyl-benzimidazol-1-yl]pyrimidine | 35.8 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2[N+](=O)[O-])C | C20H18N6O2
